US08530470B2
TBTU (154 mg, 0.48 mmol) was added to a stirred solution of 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylic acid (90 mg, 0.19 mmol), DIPEA (0.083 mL, 0.48 mmol) dissolved in DMA (2 mL) under nitrogen. The resulting solution was stirred at room temperature for 30 min. Morpholine (0.050 mL, 0.57 mmol) was added and the mixture was stirred at room temperature for 1 h. The reaction mixture was purified by preparative HPLC. The fractions containing the desired compound were evaporated to dryness to afford 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-2-((R)-2-methylmorpholino)-6-(morpholine-4-carbonyl)-4H-chromen-4-one (68 mg, 66%) as a yellow solid.

reactant | TBTU | 0.48 mmol, 154 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylic acid | 0.19 mmol, 90 mg | FC=1C=C(C=C(C1)F)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)O | C25H24F2N2O5
reactant | DIPEA | 0.48 mmol, 0.083 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Morpholine | 0.57 mmol, 0.050 mL | N1CCOCC1 | C4H9NO
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-2-((R)-2-methylmorpholino)-6-(morpholine-4-carbonyl)-4H-chromen-4-one | 68 mg, 66% | FC=1C=C(C=C(C1)F)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)N1CCOCC1 | C29H31F2N3O5
